US08877751B2
Preparation of 3-{3-[5-(2-morpholin-4-ylethoxy)pyrimidin-2-yl]benzyl}-5-trifluoromethyl-3H-benzothiazol-2-one (“A1”)
A suspension of 89 mg (0.405 mmol) of 5-trifluoromethyl-3H-benzothiazol-2-one, 150 mg (0.405 mmol) of 4-{2-[2-(3-chloromethylphenyl)pyrimidin-5-yl-oxy]ethyl}morpholine hydrochloride and 286 mg (2.02 mmol) of potassium carbonate in 8 ml of acetonitrile are stirred at 70° C. for 5 days. 30 ml of water are added to the reaction mixture, with a precipitate slowly forming. The precipitate is filtered off with suction, washed with water and dried.

reactant | 5-trifluoromethyl-3H-benzothiazol-2-one | 0.405 mmol, 89 mg | FC(C=1C=CC2=C(NC(S2)=O)C1)(F)F | C8H4F3NOS
reactant | 4-{2-[2-(3-chloromethylphenyl)pyrimidin-5-yl-oxy]ethyl}morpholine hydrochloride | 0.405 mmol, 150 mg | Cl.ClCC=1C=C(C=CC1)C1=NC=C(C=N1)OCCN1CCOCC1
reactant | potassium carbonate | 2.02 mmol, 286 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | 30 ml | O | H2O
solvent | acetonitrile | 8 ml | C(C)#N | C2H3N
product | 3-{3-[5-(2-morpholin-4-ylethoxy)pyrimidin-2-yl]benzyl}-5-trifluoromethyl-3H-benzothiazol-2-one | N1(CCOCC1)CCOC=1C=NC(=NC1)C=1C=C(CN2C(SC3=C2C=C(C=C3)C(F)(F)F)=O)C=CC1 | C25H23F3N4O3S
